US07560558B2
Compound 271: 3-(6,7-Dimethoxy-quinolin-4-yloxy)-5,6,6′-trimethyl-[2,2′]bipyridine
Dimethyl sulfoxide (2 ml) was added to 5,6,6′-trimethyl-[2,2′]bipyridin-3-ol (50 mg), 4-chloro-6,7-dimethoxyquinoline (157 mg), cesium carbonate (229 mg), and 4-(N,N-dimethylamino)-pyridine (86 mg), and the mixture was stirred at 140° C. overnight. The reaction solution was cooled to room temperature, water was then added to the reaction solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was then washed with water and was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by thin layer chromatography using hexane-acetone to give the title compound (17 mg, yield 18%).

reactant | Dimethyl sulfoxide | 2 ml | CS(=O)C | C2H6OS
reactant | 5,6,6′-trimethyl-[2,2′]bipyridin-3-ol | 50 mg | CC=1C=C(C(=NC1C)C1=NC(=CC=C1)C)O | C13H14N2O
reactant | 4-chloro-6,7-dimethoxyquinoline | 157 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | cesium carbonate | 229 mg | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | 4-(N,N-dimethylamino)-pyridine | 86 mg | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | water | O | H2O
product | 3-(6,7-Dimethoxy-quinolin-4-yloxy)-5,6,6′-trimethyl-[2,2′]bipyridine | 17 mg, yield 18% | COC=1C=C2C(=CC=NC2=CC1OC)OC=1C(=NC(=C(C1)C)C)C1=NC(=CC=C1)C | C24H23N3O3
